Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
"They thought that I am a danger to myself, but
I don't think I am."
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
"Patient reports that she has been struggling at school, which 
has been going "horribly," states that she has been having 
difficulty attending class, concentrating, and getting out of 
bed. Her suicidal thoughts started in ___, have been on and off 
since then. Notes that she has had plans including things that 
are "quick and fast" like acquiring a gun or using rat poison. 
Currently does not have access to either of these means. Has 
been Googling ways to discover how she might kill herself, 
discovered that because she is not a ___ citizen she can't 
acquire a gun. She currently does not have an active plan at 
this time and has been trying to "not think about it." Notes 
that she has a few protective factors including her friend "I 
know she would miss me" and fantasizes about her friend coming 
to her funeral. States that she has friends and family "but I 
haven't told them what's been going on." Does state that she 
feels supported by her psychologist, and was able to see her 
today because she felt somewhat better... ...SI as per HPI. 
States that she sleeps more than normal, goes to bed at 9, wakes 
up at 11. States that her appetite oscillates between having no 
appetite and then being ravenous. States that sometimes 
"everything feels like a blur," but no clear suggestion of 
disocciative/depersonalization episodes Denies HI, AVH. Denies 
history of panic attacks. Denies history of 
nightmares/flashbacks. Denies history of decreased need for 
sleep, racing thoughts, increased goal-directed behavior...

...## COLLATERAL: Outside provider-- ___. DOB: 
___ ST evaluated at ___ by ___, ___ - 
transported by section 12a. T/w recommends psychiatric 
evaluation and inpatient admission. This ___ walked in 
yesterday and asked to be placed on "suicide watch" but was able 
to commit to safety for that day. Today, this ___ admits she 
is feeling impulsive with regard to feeling suicidal and states 
she has a plan. When asked a bout a plan, this ___ is 
evasive and begins listing ways she has ruled out such as rat 
poison (because not as lethal as ___ rat poison), cutting, 
because she can't do it lethally, and that she can't acquire a 
gun due to being international. She said she worries that pills 
won't work."
.
.
.
ED Course: No acute events in the ED. Patient remained in 
behavioral control in the ED without the use of physical or 
pharmacological restraint.
.
.
.
HPI from on-unit interview: Patient is a ___ year-old ___ 
woman, full time ___ at ___, with no formal past psychiatric 
history who was sent to the ED by ___ ___ Health ___ due 
to suicidal ideation with multiple plans. Patient provided 
limited answers to most questions and stated that she did not 
understand why she was sent to the hospital. "The psychologist 
thought that I was a danger to myself, but I don't think I am." 
Patient acknowledged that she has been having suicidal thoughts 
since ___ of this year, but did not elaborate on further 
details of the thoughts. She denies SI currently while in the 
hospital. "I don't like hospitals." Patient stated that she 
would be willing to approach unit staff if her suicidal thoughts 
were to return. Patient states she slept well in the ED last 
night s/p lorazepam 0.5mg. She initially denies anxiety or 
symptoms of panic. However, does endorse occasional chest pain 
which she feels is associated with "emotional disturbance". She 
reports that the last time she experienced the chest pain was on 
___ (EKG in the ED today was normal). She denies shortness 
of breath, cough, palpitations, or fever. She denies hearing 
voices when nobody is around, other strange unexplained noises, 
seeing unusual things that others cannot or feeling like her 
mind is playing tricks on her. She denies homicidal ideation. 
She denies periods of confusion or losing pieces of time, 
forgetting where she is or how she got there. 

 
Past Medical History:
PAST PSYCHIATRIC HISTORY:
Diagnoses: Depression.
Hospitalizations: None.
Current treatment team: ___ at ___.
Medication and ECT trials: None.
Self-injury: Reports history of SA by cutting last ___ (no
medical attention).
Harm to others: Denies.
Access to weapons: Denies.

PAST MEDICAL HISTORY:
- Migraine Headaches

MEDICATIONS: 
- Ibuprofen PRN for headaches

ALLERGIES: NKDA.

SUBSTANCE ABUSE HISTORY: Patient endorses rare alcohol use (last
use 2 weeks ago). Denies other drug use, including tobacco,
marijuana, and illicit substances.

FORENSIC HISTORY: ___
Social History:
___
Family History:
FAMILY PSYCHIATRIC HISTORY: Grandfather with depression. Patient
does not know of any family history of suicide.
 
Physical Exam:
PHYSICAL EXAMINATION: 
 VS: 98.3  117/78  80  16  99% 
 General: NAD
  HEENT: PERRL, MMM, OP clear.
  Neck: Supple. No adenopathy or thyromegaly.
  Back: No significant deformity, no focal tenderness
  Lungs: CTAB; no crackles or wheezes.
  CV: RRR; no m/r/g
  Abdomen: Soft, NT, ND.
  Extremities: No clubbing, cyanosis, or edema.
  Skin: Warm and dry, no rash or significant lesions.
 NEUROLOGICAL EXAM:
 CN: PERRL, EOMI, sensation intact and symmetric V1/V2/V3, smile
symmetric, shoulder shrug intact, tongue midline, no atrophy
 Motor: strength ___ in all four ext b/l
 *Deep tendon Reflexes:
        Bicip: 2+ Patellar: 2+
 Sensation: to light touch intact in all four ext b/l
 Coordination: intact Finger-nose-finger
 Gait/Romberg: gait wnl, Romberg not assessed

MENTAL STATUS EXAM:
 -Appearance: Young ___ woman who appears stated age, 
wearing
glasses and well-groomed.
 -Behavior: Calm and cooperative with interview, makes
appropriate eye contact, answers questions appropriately.
 -Mood and Affect: "Fine", affect intermittently annoyed and
somewhat anxious, constricted range.
 -Thought process: Linear, goal-directed, no loose associations,
no tangentiality, no circumstantiality.
 -Thought Content: Denies current SI/HI/AVH, does not appear to
be responding to internal stimuli, no paranoid or delusional
thoughts elicited on interview.
 -Judgment and Insight: Impaired/Impaired.
   COGNITIVE EXAM:
     *Attention, *orientation, and executive function: 
accurately
states DOTWB; fully oriented to person, ___, and date;
executive function not formally tested.
     *Memory: intact to recent events on interview; not formally
tested.
     *Fund of knowledge: appropriate to education level.
     *Speech: minimal amount, soft tone, normal rate and rhythm.
     *Language: speaks ___ fluently without paraphasia.

 
Pertinent Results:
___ 04:15PM URINE  UCG-NEGATIVE
___ 04:15PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 02:35PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG

___ 02:35PM   GLUCOSE-106* UREA N-15 CREAT-0.7 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-24 ANION GAP-16
___ 02:35PM   WBC-9.1 RBC-4.76 HGB-13.7 HCT-41.6 MCV-87 
MCH-28.8 MCHC-32.9 RDW-11.9 RDWSD-38.4

 
Brief Hospital Course:
LEGAL & SAFETY:  
 On admission, the patient refused to sign a conditional 
voluntary agreement and was admitted on a ___.  On ___ 
___, during the initial meeting with the primary team, the 
patient signed a conditional voluntary agreement. They were also 
placed on 15 minute checks status on admission and remained on 
that level of observation throughout while being unit 
restricted.

PSYCHIATRIC:
Patient on admission to the unit stated she did not feel 
comfortable in the hospital. She endorsed chronic SI for several 
months; since ___. She stated that she was not sure as to why 
the counseling service sent her here. On further interview with 
primary team patient disclosed that she has had increasing 
difficulty with sleep (hypersomnia), decreased motivation, less 
enjoyment in previous activities as well as social withdrawal. 
The duration has been for one year and she feels as if it has 
occurred like a "switch" being flipped in her. She has not 
struggled with "depression" before. Her course over the last 
several months has been waxing and waning with days to weeks 
during which she felt more normal. Recently her suicidal 
thoughts increased in intensity leading to her thinking that she 
should kill herself by getting a gun or eating poison. She 
stated that neither would work, since she cannot get a gun 
(citizenship) nor could she find poison. She states that she has 
difficulty communicating her feelings and is reluctant to 
involve her parents in treatment/disclose her recent 
hospitalization. On mental status exam patient demonstrated fair 
hygiene, there was absence of posturing, eye contact was fair, 
her speech was of decreased rate with intermittent breaks/pauses 
in speech pattern and there was psychomotor retardation. There 
is initial isolation of affect progressing to tearfulness and 
dysphoria as interview progress. She is minimally reactive. Her 
thought process is linear and goal directed. There is no 
evidence of thought blocking or poverty of speech though thought 
content is vague at times requiring frequent clarification. She 
denies AVH and does not appear paranoid.

On review of symptoms, patient denied recent or previous 
episodes of decreased need for sleep, increased goal directed 
behavior, grandiosity. She reports that she is interested in 
social relationships though is shy and also enjoys being alone. 
She has current social supports, intact relationship with 
family, and history of previous romantic relationships. She was 
bullied in school for being "different." She denies ideas of 
reference, paranoia, or thought broadcasting. Differential 
diagnosis includes major depression disorder vs. bipolar 
disorder vs. prodromal primary psychotic illness. Most likely 
diagnosis at this time appears to be major depressive disorder 
given severe dysphoria, psychomotor retardation and lack of 
delusions, absence of thought blocking, no grandiosity/decreased 
need for sleep/increased goal directed behavior.

For treatment, we initiated treatment with Buproprion SR 100mg 
and increased to 150mg and transitioned to 200mg dose on 
discharge. We collaborated with social work and patient called 
parents notifying them of hospitalization. They developed a 
disposition plan and discussed patient's current feelings, 
thoughts, and need for continued support. We arranged with CM 
and SW and patient's ___ for patient to take a leave of 
absence and travel home. Patient reported decrease in 
hypersomnia and improvement in mood. Mental status on discharge 
was notable for a decrease in psychomotor retardation and a more 
euthymic affect. She was future oriented and denied suicidal 
ideation at time of discharge. 

Future interventions include continued outpatient prescribing of 
Buproprion XL 150mg by patient's primary care physician or 
outpatient prescriber while home in ___. Recommend patient 
follow up with a therapist in ___ or at ___ Counseling 
___ if she is to return to school in the ___ semester.

SUBSTANCE USE DISORDERS:
#Discuss smoking cessation or other substance use counseling. 
None identified 

MEDICAL
#None identified 

PSYCHOSOCIAL
#GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient often attended these groups that focused on teaching 
patients various coping skills. The patient was polite, 
appropriate and engaged with various treater's on the unit.

#COLLATERAL CONTACTS & FAMILY INVOLVEMENT
- On initial evaluation in the ED, collateral was obtained from 
outpatient referring physician at ___. 
-Social work worked with patient to contact family/social 
supports

 #INTERVENTIONS
 - Medications: Buproprion SR 200 mg
 - Psychotherapeutic Interventions: Individual, group, and 
milieu therapy.
 - Coordination of aftercare: discharge home in care of parents
 - Behavioral Interventions (e.g. encouraged DBT skills, ect): 
supportive psychotherapy, coping skills, meditation.
 -Guardianships: none

RISK ASSESSMENT & PROGNOSIS
 On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon 
neurovegetative symptoms and suicide ideation with plans of high 
lethality. Her static factors noted at that time include young 
adult age. The modifiable risk factors were also addressed at 
that time include suicidal ideation with plan of high lethality, 
lack of engagement with outpatient treatment, hopelessness, 
social withdrawal, limited coping skills, poor reality testing, 
no established outpatient treatment, hypersomnia, lack of 
purpose, polarized thinking. We coordinated with outpatient 
providers, aided in patient's discussion with family regarding 
current hospitalization, current and future treatment, and 
education plan. We started medication and engaged in safety 
planning.  Finally, the patient is being discharged with many 
protective risk factors, help-seeking nature, future-oriented 
viewpoint, reality testing ability,  lack of suicidal ideation, 
no history of substance use disorder.  Overall, based on the 
totality of our assessment at this time, the patient is not at 
an acutely elevated risk of self-harm nor danger to others. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ibuprofen Dose is Unknown  PO DAILY:PRN Pain - Mild 
2. melatonin 5 mg oral QPM 

 
Discharge Medications:
1.  BuPROPion (Sustained Release) 200 mg PO QAM 
RX *bupropion HCl [Wellbutrin SR] 200 mg 1 tablet(s) by mouth in 
the morning Disp #*30 Tablet Refills:*0
RX *bupropion HCl [Wellbutrin SR] 200 mg 1 tablet(s) by mouth in 
the morning Disp #*30 Tablet Refills:*0 
2.  melatonin 5 mg oral QPM  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Major depressive disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___